US06090804
1) N,N-Dimethyl-N'-[5-[(hexahydro-1H-azepin-1-yl)methyl]-2-thienyl]-formamidine
3.72 g (15.65 mmol) of 5-[(hexahydro-1H-azepin-1-yl)methyl]thiophene-2-carboxamide was dissolved in 30 ml of N,N-dimethylformamide, 3.4 ml (25.6 mmol) of N,N-dimethylformamide dimethylacetal was added, and the mixture was stirred at 80° C. for 4 hours. The reaction solution was concentrated under a reduced pressure, and the resulting residue was dissolved in chloroform, washed with water and then dried over anhydrous magnesium sulfate. By evaporating the solvent, 3.82 g of the title compound was obtained.

reactant | 5-[(hexahydro-1H-azepin-1-yl)methyl]thiophene-2-carboxamide | 15.65 mmol, 3.72 g | N1(CCCCCC1)CC1=CC=C(S1)C(=O)N | C12H18N2OS
reactant | N,N-dimethylformamide dimethylacetal | 25.6 mmol, 3.4 ml | COC(N(C)C)OC | C5H13NO2
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N,N-Dimethyl-N'-[5-[(hexahydro-1H-azepin-1-yl)methyl]-2-thienyl]-formamidine | 3.82 g | CN(C=NC=1SC(=CC1)CN1CCCCCC1)C | C14H23N3S
